Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8]2[c:9]([cH:10]1)[B:11]([OH:12])[O:13][CH2:14]2.[O:15]=[C:16]([OH:17])[c:18]1[cH:19][n:20]([CH:21]2[CH2:22][CH2:23]2)[c:24]2[cH:25][c:26]([N:27]3[CH2:32][CH2:31][NH:30][CH2:29][CH2:28]3)[c:33]([F:34])[cH:35][c:36]2[c:37]1=[O:38]>>[CH2:1]([CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8]2[c:9]([cH:10]1)[B:11]([OH:12])[O:13][CH2:14]2)[N:30]1[CH2:29][CH2:28][N:27]([c:26]2[cH:25][c:24]3[n:20]([CH:21]4[CH2:22][CH2:23]4)[cH:19][c:18]([C:16](=[O:15])[OH:17])[c:37](=[O:38])[c:36]3[cH:35][c:33]2[F:34])[CH2:32][CH2:31]1,[O:15]=[C:16]([OH:17])[c:18]1[cH:19][n:20]([CH:21]2[CH2:22][CH2:23]2)[c:24]2[cH:25][c:26]([N:27]3[CH2:28][CH2:29][NH:30][CH2:31][CH2:32]3)[c:33]([F:34])[cH:35][c:36]2[c:37]1=[O:38].[Br:101][CH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8]2[c:9]([cH:10]1)[B:11]([OH:12])[O:13][CH2:14]2>>[CH2:1]([CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][c:8]2[c:9]([cH:10]1)[B:11]([OH:12])[O:13][CH2:14]2)[N:30]1[CH2:29][CH2:28][N:27]([c:26]2[cH:25][c:24]3[n:20]([CH:21]4[CH2:22][CH2:23]4)[cH:19][c:18]([C:16](=[O:15])[OH:17])[c:37](=[O:38])[c:36]3[cH:35][c:33]2[F:34])[CH2:32][CH2:31]1,SN2,"[(30, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([CH2:2][CH3:3])(=[O:5])=[O:4].[NH2:6][C@@H:7]1[CH2:8][CH2:9][O:10][CH2:11][C@H:12]1[c:13]1[cH:24][cH:23][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:15][cH:14]1>>[S:1]([CH2:2][CH3:3])(=[O:4])(=[O:5])[NH:6][C@@H:7]1[CH2:8][CH2:9][O:10][CH2:11][C@H:12]1[c:13]1[cH:14][cH:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23][cH:24]1,[NH2:6][C@@H:7]1[CH2:8][CH2:9][O:10][CH2:11][C@H:12]1[c:13]1[cH:14][cH:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23][cH:24]1.[Cl:101][S:1]([CH2:2][CH3:3])(=[O:4])=[O:5]>>[S:1]([CH2:2][CH3:3])(=[O:4])(=[O:5])[NH:6][C@@H:7]1[CH2:8][CH2:9][O:10][CH2:11][C@H:12]1[c:13]1[cH:14][cH:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23][cH:24]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(6, 1), ([1, 4], 4), (4, [4, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH2:2][CH2:3][N:4]1[c:5]2[c:6]([cH:7][cH:8][cH:9][cH:10]2)[N:11]([c:12]2[cH:13][cH:14][c:15]([CH3:16])[cH:17][cH:18]2)[S:19]1(=[O:20])=[O:21].[CH3:22][NH2:23]>>[CH2:1]([CH2:2][CH2:3][N:4]1[c:5]2[c:6]([cH:7][cH:8][cH:9][cH:10]2)[N:11]([c:12]2[cH:13][cH:14][c:15]([CH3:16])[cH:17][cH:18]2)[S:19]1(=[O:20])=[O:21])[NH:23][CH3:22],[Br:101][CH2:1][CH2:2][CH2:3][N:4]1[c:5]2[c:6]([cH:7][cH:8][cH:9][cH:10]2)[N:11]([c:12]2[cH:13][cH:14][c:15]([CH3:16])[cH:17][cH:18]2)[S:19]1(=[O:20])=[O:21].[CH3:22][NH2:23]>>[CH2:1]([CH2:2][CH2:3][N:4]1[c:5]2[c:6]([cH:7][cH:8][cH:9][cH:10]2)[N:11]([c:12]2[cH:13][cH:14][c:15]([CH3:16])[cH:17][cH:18]2)[S:19]1(=[O:20])=[O:21])[NH:23][CH3:22],SN2,"[(23, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH:1]1[CH2:2][CH2:3][N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][CH2:13]1.[SH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][n:20]1>>[CH:1]1([S:14][c:15]2[cH:16][cH:17][cH:18][cH:19][n:20]2)[CH2:2][CH2:3][N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][CH2:13]1,[Br:101][CH:1]1[CH2:2][CH2:3][N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][CH2:13]1.[SH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][n:20]1>>[CH:1]1([S:14][c:15]2[cH:16][cH:17][cH:18][cH:19][n:20]2)[CH2:2][CH2:3][N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][CH2:13]1,SN1,"[([1, 101], 101), (14, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([CH:2]([CH3:3])[CH3:4])(=[O:5])=[O:6].[CH3:7][CH:8]([CH3:9])[S:10](=[O:11])(=[O:12])[NH:13][CH:14]1[CH2:15][CH2:16][CH2:17][CH:18]=[C:19]1[c:20]1[cH:21][cH:22][c:23]([O:24][CH2:25][CH2:26][NH2:27])[cH:28][cH:29]1>>[S:1]([CH:2]([CH3:3])[CH3:4])(=[O:5])(=[O:6])[NH:27][CH2:26][CH2:25][O:24][c:23]1[cH:22][cH:21][c:20]([C:19]2=[CH:18][CH2:17][CH2:16][CH2:15][CH:14]2[NH:13][S:10]([CH:8]([CH3:7])[CH3:9])(=[O:11])=[O:12])[cH:29][cH:28]1,[CH3:7][CH:8]([CH3:9])[S:10](=[O:11])(=[O:12])[NH:13][CH:14]1[CH2:15][CH2:16][CH2:17][CH:18]=[C:19]1[c:20]1[cH:21][cH:22][c:23]([O:24][CH2:25][CH2:26][NH2:27])[cH:28][cH:29]1.[Cl:101][S:1]([CH:2]([CH3:3])[CH3:4])(=[O:5])=[O:6]>>[S:1]([CH:2]([CH3:3])[CH3:4])(=[O:5])(=[O:6])[NH:27][CH2:26][CH2:25][O:24][c:23]1[cH:22][cH:21][c:20]([C:19]2=[CH:18][CH2:17][CH2:16][CH2:15][CH:14]2[NH:13][S:10]([CH:8]([CH3:7])[CH3:9])(=[O:11])=[O:12])[cH:29][cH:28]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(27, 1), ([1, 5], 5), (5, [5, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
